### PR TITLE
Introduce Semiring and refactor finite sums

### PR DESCRIPTION
**Pull request by felixwellen**
So far, we only have CommSemiring. I don't have a Semiring that is not commutative, but I want to move the definition of sum from Ring to a place where it can also be used for Nat.

### CODE REVIEW

File: Cubical/Algebra/CommSemiring/Base.agda [hunk 1]
```diff
@@ -48,3 +37,54 @@ record CommSemiringStr (A : Type ℓ) : Type (ℓ-suc ℓ) where
...
+            is-setR +Assoc +IdR +Comm ·Assoc
+            ·IdR (λ x → ·Comm _ x ∙ (·IdR x))
+            ·DistR+ (λ x y z → (x + y) · z       ≡⟨ ·Comm (x + y) z ⟩
+                               z · (x + y)       ≡⟨ ·DistR+ z x y ⟩
+                               (z · x) + (z · y) ≡[ i ]⟨ (·Comm z x i + ·Comm z y i) ⟩
+                               (x · z) + (y · z) ∎ )
+            ( λ x → ·Comm x _ ∙ AnnihilL x) AnnihilL
+        IsCommSemiring.·Comm x = ·Comm
+
+makeCommSemiring : (R : Type ℓ)
```
Comment (mzeuner) [inline Cubical/Algebra/CommSemiring/Base.agda:66]: There has been a motion to remove `make...` and only keep the `makeIs...` for all the algebraic structures:
https://github.com/agda/cubical/issues/598

I guess the discussion has remained inconclusive, but maybe something to keep in mind...

**Review by mzeuner — COMMENTED** [review]
Only had a tiny remark, which is related to an old issue https://github.com/agda/cubical/issues/598.

Since that issue was never closed, I think we can leave it to your conscience, whether you want to keep `makeCommSemiRing` or whether you want define `UpperNat.asCommSemiRing` using copatterns.

Otherwise it should be ready to be merged.

File: Cubical/Algebra/CommSemiring/Base.agda (hunk 1 above)
Comment (felixwellen) [reply Cubical/Algebra/CommSemiring/Base.agda:66]: I think Anders' arguments do not really apply in this case, since there is no difference in readability and I defined ```makeCommSemiring``` a copattern - apart from using ```(R , str)``` - but I think we wan't that one to unfold. Or does it make a difference to use a function defined with a copattern instead of a direct copattern? 
On the other hand, it is really just boilerplate code and the interesting stuff is in ```makeIsCommSemiring``` so I will have a look how things look like, when I remove it.

Comment (felixwellen) [reply Cubical/Algebra/CommSemiring/Base.agda]: Looks somewhat better - thanks!

File: Cubical/Algebra/CommSemiring/Instances/UpperNat.agda [hunk 2]
```diff
@@ -186,16 +186,17 @@ module ConstructionBounded where
...
-  IsCommSemiring.+IsCommMonoid (CommSemiringStr.isCommSemiring (snd asCommSemiring)) =
-    OrderedCommMonoidStr.isCommMonoid (snd ℕ↑-+b)
-  IsCommSemiring.·IsCommMonoid (CommSemiringStr.isCommSemiring (snd asCommSemiring)) =
-    OrderedCommMonoidStr.isCommMonoid (snd ℕ↑-·b)
-  IsCommSemiring.·LDist+ (CommSemiringStr.isCommSemiring (snd asCommSemiring)) =
-    λ x y z → Σ≡Prop (λ s → PropCompletion.isPropIsBounded ℓ-zero ℕ≤+ s)
-                     (ConstructionUnbounded.+LDist· (fst x) (fst y) (fst z))
-  IsCommSemiring.AnnihilL (CommSemiringStr.isCommSemiring (snd asCommSemiring)) = AnnihilL
+  asCommSemiring =
+    makeCommSemiring ℕ↑b 0↑ (OrderedCommMonoidStr.ε (snd ℕ↑-·b))
```
[the remark this answers is not in the document]
Comment (felixwellen) [reply Cubical/Algebra/CommSemiring/Instances/UpperNat.agda]: See above
